US04297350
17β-Methoxy-5α-androst-1-en-3-one (IV)
A mixture of 2α-bromo-17β-methoxy-5α-androstan-3-one (U.S. Pat. No. 3,301,850, Example 15, 3.0 g.), lithium carbonate (1.5 g.) and lithium chloride (0.5 g.) in DMF (30 ml.) are heated at reflux under nitrogen for 1.5 hours. The mixture is cooled, filtered and the solids washed with DMF. The filtrate and washings are combined and diluted with water (10 ml.) to give a precipitate. The precipitate is collected, washed, dried and column chromatographed over silica gel (200 g.) eluting by gradient between SSB (5 l.) and SSB:ethyl acetate (70:30, 5 l.). The appropriate fractions (TLC) are pooled and concentrated to give a solid which after recrystallization from hexane gives the title compound, m.p. 115°-117°, UV (ethanol) λ=229 nm (ε=10,350); MS (m/e) 302, 287 and 260; NMR (CDCl3) 0.79, 1.01, 3.20, 3.34, 5.84 and 7.13 δ.

reactant | 2α-bromo-17β-methoxy-5α-androstan-3-one | Br[C@H]1C(C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C1)C)OC)=O | C20H31BrO2
reactant | lithium carbonate | 1.5 g | C([O-])([O-])=O.[Li+].[Li+]
reactant | lithium chloride | 0.5 g | [Cl-].[Li+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 17β-Methoxy-5α-androst-1-en-3-one | CO[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC(C=C[C@]3(C)[C@H]1CC2)=O | C20H30O2
